US07709474B2
N-(5-{2-[3-(4,4-diethyl-2-oxo-4H-benzo[d][1,3]oxazin-1-yl)-1,1-dimethyl-propylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide
The (R)- and (S)-enantiomers of this embodiment may be obtained by common methods known in the art. Particular importance attaches to the (R)-enantiomer of this embodiment according to the invention. The angle of rotation of (R)- N-(5-{2-[3-(4,4-diethyl-2-oxo-4H-benzo[d][1,3]oxazin-1-yl)-1,1-dimethyl-propylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide hydrochloride (cocrystallised with a molecule of acetone) is −28.8° (c=1%, in methanol at 20° C.).

reactant | (R)- N-(5-{2-[3-(4,4-diethyl-2-oxo-4H-benzo[d][1,3]oxazin-1-yl)-1,1-dimethyl-propylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide hydrochloride | Cl.C(C)C1(C2=C(N(C(O1)=O)CCC(C)(C)NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O)C=CC=C2)CC
reactant | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
product | N-(5-{2-[3-(4,4-diethyl-2-oxo-4H-benzo[d][1,3]oxazin-1-yl)-1,1-dimethyl-propylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide | C(C)C1(C2=C(N(C(O1)=O)CCC(C)(C)NCC(O)C=1C=CC(=C(C1)NS(=O)(=O)C)O)C=CC=C2)CC | C26H37N3O6S
